US04071466
255 g of p-butylsulphonylacetanilide, in a mixture of 1.5 l of water and 300 ml of concentrated hydrochloric acid, are boiled for 1 hour under reflux. After cooling to 0° C, the product is diazotised with a solution of 70 g of NaNO2 in 175 ml of water. The filtered diazonium salt solution is added, at 5°-10° C, to a mixture of 750 g of 40% strength sodium sulphite solution and 750 ml of water which had been adjusted to pH 7 with concentrated sodium hydroxide solution, the pH being maintained at 6-7 by means of concentrated sodium hydroxide solution. After standing overnight, 300 ml of concentrated hydrochloric acid are added and the mixture is boiled for 1 hour. p-Butylsulphonylphenylhydrazine of melting point 138° C (from ethanol) is obtained, in a yield of approx. 70- 75% of theory, from the cooled solution by careful addition of alkali.

reactant | p-butylsulphonylacetanilide | 255 g | C(CCC)S(=O)(=O)C1=CC=C(NC(C)=O)C=C1 | C12H17NO3S
reactant | NaNO2 | 70 g | N(=O)[O-].[Na+]
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1.5 l | O | H2O
solvent | hydrochloric acid | 300 ml | Cl | ClH
solvent | water | 175 ml | O | H2O
solvent | hydrochloric acid | 300 ml | Cl | ClH
solvent | water | 750 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | p-Butylsulphonylphenylhydrazine | yield of approx. 70- 75% | C(CCC)S(=O)(=O)C1=CC=C(C=C1)NN | C10H16N2O2S
